US07230031B2
5-Bromoindan-4-ol
To a solution of indan-4-ol (24.2 g) in dichloromethane (200 mL) was added diisopropylamine (2.55 mL). To the solution was added N-bromosuccinimide (32.07 g) in small portions under ice-cooling, and the mixture was stirred at room temperature overnight. Diluted sulphuric acid (pH1, 200 mL) was added to the reaction mixture, and the mixture was separated. The organic layer was washed with water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1−1/1) to give the title compound (31.1 g).

reactant | indan-4-ol | 24.2 g | C1CCC=2C(=CC=CC12)O | C9H10O
reactant | diisopropylamine | 2.55 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-bromosuccinimide | 32.07 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sulphuric acid | 200 mL, pH1 | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-Bromoindan-4-ol | 31.1 g | BrC1=C(C=2CCCC2C=C1)O | C9H9BrO
